US07122331B1
The sodium salt of D-erythrose 4-phosphate (14.6 mg, 65.7 μmol) is dissolved in methanol (600 μl, 40% (v/v)). Sodium borohydride is added. The reaction is monitored by detection of the aldehyde according to the method of Stahl (Bollinger, H. R., Brenner, M., Gänshirt, H., Mangold, H. K., Seiler, H., Stahl, E. ad Waldi, D. (1964) IN: Dünnschicht-Chromatographie; Ein Laboratoriumshandbuch (ed. Stahl, E.) Springer Verlag, Berlin, Göttingen; Heidelberg). After consumption of the aidehyde the pH of the solution is adjusted with acetic acid to 4–5. The reaction mixture is lyophillized yielding D-erythritol 4-phosphate as a dry compound.

reactant | sodium | [Na] | Na
reactant | D-erythrose 4-phosphate | 65.7 μmol, 14.6 mg | P(=O)(O)(O)OC[C@H]([C@H](C=O)O)O | C4H9O7P
reactant | Sodium borohydride | [BH4-].[Na+]
solvent | methanol | 600 μl | CO | CH4O
product | D-erythritol 4-phosphate | P(=O)(O)(O)OC[C@H]([C@H](CO)O)O | C4H11O7P
